US09056914B2
To a solution of 80 mg of methyl 3-([2-(2,6-bis-hydroxymethyl-pyridin-4-yloxy)-ethyl]-{2-[2-(2-methoxy-ethoxy)-ethoxy]-ethyl}-amino)-propanoate in 8 ml of DCM, precooled to −25° C., was added 183 μl of diisopropylethylamine and 57 μl of methanesulfonyl chloride. The mixture was stirred for 1 hour at −15° C. and then washed with 5 ml of water. The aqueous phase was extracted with 5 ml of DCM. The organic phases were combined, dried over MgSO4 and concentrated under reduced pressure. 110 mg of methyl 3-([2-(2,6-bis-methanesulfonyloxymethyl-pyridin-4-yloxy)-ethyl]-{2-[2-(2-methoxy-ethoxy)-ethoxy]-ethyl}-amino)-propanoate were obtained. LC/MS (B): tr=2.67 min; [M+H]+: m/z 587

reactant | methyl 3-([2-(2,6-bis-hydroxymethyl-pyridin-4-yloxy)-ethyl]-{2-[2-(2-methoxy-ethoxy)-ethoxy]-ethyl}-amino)-propanoate | 80 mg | OCC1=NC(=CC(=C1)OCCN(CCC(=O)OC)CCOCCOCCOC)CO | C20H34N2O8
reactant | diisopropylethylamine | 183 μl | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methanesulfonyl chloride | 57 μl | CS(=O)(=O)Cl | CH3ClO2S
solvent | DCM | 8 ml | C(Cl)Cl | CH2Cl2
product | methyl 3-([2-(2,6-bis-methanesulfonyloxymethyl-pyridin-4-yloxy)-ethyl]-{2-[2-(2-methoxy-ethoxy)-ethoxy]-ethyl}-amino)-propanoate | 110 mg | CS(=O)(=O)OCC1=NC(=CC(=C1)OCCN(CCC(=O)OC)CCOCCOCCOC)COS(=O)(=O)C | C22H38N2O12S2
